US04582855
1,1-DIMETHYL-2-[(DIMETHYLAMINO)SULFONYLAMINO]ETHYLAMINE
A mixture of 30.7 g (0.35 mol) of 1,2-diamino-2-methylpropane, 150 ml of ether and 50 ml of trienthylamine was cooled to 0° C. and 20 g (0.14 mol) of dimethylsulfamoyl chloride was added slowly. The reaction mixture was stirred for 30 minutes and evaporated to dryness. The residue was mixed with water, basified with K2CO3 and evaporated to dryness. Acetone was added and the mixture was filtered. Evaporation of the filtrate gave a solid which recrystallized from toluene to give 16.5 g (60.3%) of product, mp 77°-78° C. The NMR and IR were consistent with the assigned structure.

reactant | 1,2-diamino-2-methylpropane | 0.35 mol, 30.7 g | NCC(C)(C)N | C4H12N2
reactant | dimethylsulfamoyl chloride | 0.14 mol, 20 g | CN(S(=O)(=O)Cl)C | C2H6ClNO2S
solvent | ether | 150 ml | CCOCC | C4H10O
product | 1,1-DIMETHYL-2-[(DIMETHYLAMINO)SULFONYLAMINO]ETHYLAMINE | 16.5 g, 60.3% | CC(CNS(=O)(=O)N(C)C)(C)N | C6H17N3O2S
